US06528543B1
3-Cyclopentyl-2-(3-fluoro-4-methanesulfonyl-phenyl)-propionic acid methyl ester (90 mg, 0.274 mmol) and methyl urea (61 mg, 0.822 mmol) were treated with a solution of magnesium methoxide in methanol (7.4 wt %, 1.0 mL, 0.685 mmol). The reaction mixture was then concentrated in vacuo to approximately one-half the volume of methanol. The resulting reaction mixture was then heated under reflux for 24 h. The resulting cloudy, white reaction mixture was allowed to cool to 25° C. and then filtered through celite. The celite was thoroughly washed with ethyl acetate. The filtrate was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 1/1 hexanes/ethyl acetate) afforded 1-[3-cyclopentyl-2-(3-fluoro4-methanesulfonyl-phenyl)-propionyl]-3-methyl-urea (23.3 mg, 23%) as a white solid: mp 199-200° C.; EI-HRMS m/e calcd for C17H23FN2O4S (M+) 370.1362, found 370.1370.

reactant | 3-Cyclopentyl-2-(3-fluoro-4-methanesulfonyl-phenyl)-propionic acid methyl ester | 0.274 mmol, 90 mg | COC(C(CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)F)=O | C16H21FO4S
reactant | methyl urea | 0.822 mmol, 61 mg | CNC(=O)N | C2H6N2O
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | methanol | 0.685 mmol, 1.0 mL | CO | CH4O
product | 1-[3-cyclopentyl-2-(3-fluoro4-methanesulfonyl-phenyl)-propionyl]-3-methyl-urea | 23.3 mg, 23% | C1(CCCC1)CC(C(=O)NC(=O)NC)C1=CC(=C(C=C1)S(=O)(=O)C)F | C17H23FN2O4S
